US04349674
2-[(Methylamino(methylamino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride
2-Chloro-3-quinoxalinecarboxylic acid, ethyl ester (4.733 g., 0.02 mole) and 2.084 g., (0.02 mole) of N,N'-dimethylthiourea were dissolved in a solution of 10 ml. of acetic acid and 90 ml. of acetone. The mixture was heated at reflux for 1 hour, cooled in an icebath and filtered. The residue was washed with acetone, triturated with two portions of acetonitrile, washed with ether, and dried to give 4.70 g. of the product, m.p. 162°-163.5° (dec.)

reactant | 2-Chloro-3-quinoxalinecarboxylic acid, ethyl ester | 0.02 mole, 4.733 g | ClC1=NC2=CC=CC=C2N=C1C(=O)OCC | C11H9ClN2O2
reactant | N,N'-dimethylthiourea | 0.02 mole | CNC(=S)NC | C3H8N2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
product | (Methylamino(methylamino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)SC(NC)NC | InChI=1S/C14H18N4O2S.ClH/c1-4-20-13(19)11-12(21-14(15-2)16-3)18-10-8-6-5-7-9(10)17-11;/h5-8,14-16H,4H2,1-3H3;1H
